US06110929
A mixture of ethyl 4-hydroxy-7-(trifluoromethyl)-3-quinolinecarboxylate (43.4 g, 0.521 mol) and 10% sodium hydroxide (150 mL) was heated to reflux. Most of the ester did not dissolve so methanol (150 mL) was added over the course of an hour to facilitate dissolution. After refluxing for 2 hours a solution was obtained. The solution was refluxed for an additional 2 hours and then allowed to cool to ambient temperature overnight. The methanol was removed under reduced pressure and the resulting aqueous solution was acidified with concentrated hydrochloric acid. The resulting precipitate was isolated by filtration, washed with water and then dried in a vacuum oven at 120° C. for 24 hours to provide 38.5 g of 4-hydroxy-7-(trifluoromethyl)-3-quinolinecarboxylic acid as a white solid.

reactant | ethyl 4-hydroxy-7-(trifluoromethyl)-3-quinolinecarboxylate | 0.521 mol, 43.4 g | OC1=C(C=NC2=CC(=CC=C12)C(F)(F)F)C(=O)OCC | C13H10F3NO3
reactant | sodium hydroxide | 150 mL | [OH-].[Na+]
solvent | methanol | 150 mL | CO | CH4O
product | 4-hydroxy-7-(trifluoromethyl)-3-quinolinecarboxylic acid | 38.5 g | OC1=C(C=NC2=CC(=CC=C12)C(F)(F)F)C(=O)O | C11H6F3NO3
